US06723735B1
3′-[6-(Furan-3-yl)imidazo[4,5-b]pyridin-3-yl]biphenyl-2-carbonitrile
A degassed mixture of crude 6-(furan-3-yl)-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-3H-imidazo[4,5-b]pyridine (85 mg), 2-bromobenzonitrile (54 mg, 0.3 mmol), tetrakis(triphenylphosphine)palladium(0) (10 mg) and potassium phosphate (85 mg, 0.4 mmol) in N,N-dimethylformamide (1.5 ml) was heated at 80° C. for 16 hours. The reaction was cooled to ambient temperature, diluted with dichloromethane (10 ml) and methanol (10 ml) and pre-adsorbed onto silica. Purification by silica gel chromatography eluting with dichloromethane/methanol/concentrated ammonia (96:3.5:0.5) furnished the title compound as a cream-coloured solid (31 mg). This was converted to its oxalate salt and crystallised from hot ethanol; δH (400 MHz, d6-DMSO) 7.16-7.17 (1H, m), 7.66 (1H, td, J 8 and 1), 7.70-7.72 (1H, m), 7.78-7.81 (3H, m), 7.87 (1H, td, J 8 and 1), 8.02 (1H, dd, J 8 and 1), 8.17-8.19 (1H, m), 8.25-8.26 (1H, m), 8.36 (1H, s), 8.51 (1H, d, J 2), 8.78 (1H, d, J 2), 9.02 (1H, s); m/z (ES+) 363 (M++H).

reactant | 6-(furan-3-yl)-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-3H-imidazo[4,5-b]pyridine | 85 mg | O1C=C(C=C1)C=1C=C2C(=NC1)N(C=N2)C2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C | C22H22BN3O3
reactant | 2-bromobenzonitrile | 0.3 mmol, 54 mg | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | potassium phosphate | 0.4 mmol, 85 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-[6-(Furan-3-yl)imidazo[4,5-b]pyridin-3-yl]biphenyl-2-carbonitrile | 31 mg | O1C=C(C=C1)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C23H14N4O
